Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Morphine / Kefzol / Bee Pollens / Percocet / Cefazolin / 
lisinopril / nifedipine / valsartan / Ventolin HFA / Vicodin / 
albuterol
 
Attending: ___.
 
Chief Complaint:
right periprosthetic distal femur fracture
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation with less invasive 
stabilization system of right periprosthetic distal femur 
fracture on ___

 
History of Present Illness:
___ female w/ relevant PMHx remote MS ___ last given
___ years, per patient; no active treatment), gastric bypass, 
HTN,
bilateral TKAs ___ Left ___ years ago", Right ___ years ago)
presents after fall from standing onto Right knee. She noticed
immediate Right knee pain. She denies HS or LOC. 
 
Past Medical History:
*S/P CHOLECYSTECTOMY                                            
*S/P DUPUYTRENS                                                 
*S/P GASTRIC BYPASS                                             
ADD                                                             
ANXIETY                                                         
AUTOLOGOUS BLOOD DONATION                                       
HYPERTENSION                                                    
MULTIPLE SCLEROSIS                                              
OBESITY                                                         
BACK PAIN                                                       
RIGHT SHOULDER PAIN                                             
KNEE PAIN                                                       
OSTEOARTHRITIS                                                  
ARTHRITIS                                                       
EPISTAXIS                                                       
FOOT PAIN                                                       
LEFT RADIUS AND ULNA FRACTURE                                   
H/O COCAINE ABUSE                                               
H/O PANCREATITIS              

Surgical History (Last Verified ___ by ___, MD):
ORIF LEFT  DISTAL RADIUS FRACTURE.                    ___
Dr. ___ - ___                                            

KNEE SURGERY                                          ___
left                                                            

SHOULDER SURGERY                                      ___      
Right shoulder - arthroscopy for rotator cuff tendinopathy      

DUPUYTRENS                                            ___      
Right hand - ___                                                

KNEE SURGERY                                          ___      
Right TKR - Dr. ___                                           

___                                                 

GASTRIC BYPASS                                      

 
Social History:
Country of Origin:  Born in ___                       
Marital status:     Single                                      
Children:           No                                          
Lives with:         Alone                                       
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ violence:  Denies                                      
Contraception:      None                                        
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient already being treated for depression
Exercise:           Activities: Walking, hauling wood, busy on  
                    her property.                               
Diet:               Mod fat                                     
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    N/A     

Patient reports she is moderately active. She does not use
assistive devices regularly, although she will use them if
anticipating ambulating for extended periods of time (out
"walking dog").          
 
Family History:
n/c
 
Physical Exam:
Upon Admission:
General: alert, oriented, responsive, follows commands
Chest/Resp: non-labored breathing, no respiratory distress
Right lower extremity:
- Skin intact
- Mild swelling and ecchymoses about distal aspect of Right 
femur
- +TTP at distal femur; no TTP distally over lower leg; notable
scar over anterior ankle from prior childhood ankle surgery
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ DP pulse, foot warm and well-perfused

On discharge:

___ ___ Temp: 98.7 PO BP: 108/70 HR: 85 RR: 18 O2 sat: 94%
O2 delivery: Ra 
Exam: alert, oriented, no distress 
 General: alert, oriented, responsive, follows commands
Chest/Resp: non-labored breathing, no respiratory distress
 MSK: RLE: surgical dressing c/d/I; SILT distally; fires
TA, ___, ___ well-perfused distally

 
Pertinent Results:
___ 02:53AM BLOOD WBC-6.1 RBC-2.44* Hgb-8.8* Hct-26.1* 
MCV-107* MCH-36.1* MCHC-33.7 RDW-14.5 RDWSD-56.6* Plt ___
___ 07:43AM BLOOD WBC-11.1* RBC-3.04* Hgb-10.8* Hct-31.7* 
MCV-104* MCH-35.5* MCHC-34.1 RDW-14.0 RDWSD-53.3* Plt ___
___ 07:43AM BLOOD Neuts-87.9* Lymphs-5.6* Monos-5.7 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-9.74* AbsLymp-0.62* 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.03
___ 02:53AM BLOOD Plt ___
___ 07:43AM BLOOD Plt ___
___ 02:53AM BLOOD Glucose-124* UreaN-14 Creat-0.7 Na-137 
K-3.9 Cl-99 HCO3-26 AnGap-12
___ 07:43AM BLOOD Glucose-96 UreaN-16 Creat-0.5 Na-139 
K-4.8 Cl-98 HCO3-17* AnGap-24*
___ 02:53AM BLOOD Calcium-7.1* Phos-2.9 Mg-1.6
___ 05:43AM BLOOD WBC-6.4 RBC-2.27* Hgb-8.1* Hct-24.5* 
MCV-108* MCH-35.7* MCHC-33.1 RDW-14.2 RDWSD-55.8* Plt ___
___ 05:43AM BLOOD Glucose-117* UreaN-7 Creat-0.6 Na-137 
K-3.8 Cl-101 HCO3-25 AnGap-11
___ 05:43AM BLOOD Calcium-7.8* Phos-1.9* Mg-1.8
___ 07:04AM BLOOD WBC-7.3 RBC-2.30* Hgb-8.3* Hct-25.1* 
MCV-109* MCH-36.1* MCHC-33.1 RDW-14.1 RDWSD-56.0* Plt ___
___ 07:04AM BLOOD Plt ___
___ 07:04AM BLOOD ___ PTT-28.8 ___
___ 07:04AM BLOOD Glucose-100 UreaN-9 Creat-0.6 Na-137 
K-4.2 Cl-101 HCO3-23 AnGap-13
___ 07:04AM BLOOD Calcium-7.6* Phos-2.6* Mg-2.0
___ 08:00AM BLOOD WBC-6.6 RBC-2.36* Hgb-8.5* Hct-25.6* 
MCV-109* MCH-36.0* MCHC-33.2 RDW-14.6 RDWSD-57.1* Plt ___
___ 08:00AM BLOOD Plt ___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have right periprosthetic distal femur fracture and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for open reduction 
internal fixation with less invasive stabilization system of 
right periprosthetic distal femur fracture, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to rehab was appropriate. The 
___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
Touchdown weightbearing to the right lower extremity with range 
of motion as tolerated, right knee and unlocked ___ knee 
brace, and will be discharged on lovenox 40mg daily x4weeks for 
DVT prophylaxis. The patient will follow up with Dr. ___ 
___ routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO BID 
2. Gabapentin 1200 mg PO QHS 
3. Lidocaine 5% Ointment 1 Appl TP DAILY:PRN pain 
4. LORazepam 0.5 mg PO QAM 
5. LORazepam 0.5 mg PO NOON 
6. LORazepam ___ mg PO QHS 
7. MethylPHENIDATE (Ritalin) 20 mg PO BID 
8. Metoprolol Tartrate 100 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Sertraline 50 mg PO DAILY 
11. Vitamin D 4000 UNIT PO DAILY 
12. DiphenhydrAMINE 25 mg PO QHS:PRN allergies 
13. Fluticasone Propionate NASAL 1 SPRY NU DAILY allergies 
14. Multivitamins 1 TAB PO DAILY 
15. Magnesium Oxide 400 mg PO BID 
16. Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
RX *bisacodyl [Laxative (bisacodyl)] 5 mg 1 tablet(s) by mouth 
daily Disp #*50 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*50 Capsule Refills:*0 
4.  Enoxaparin Sodium 40 mg SC Q24H 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC daily Disp #*28 Syringe 
Refills:*0 
5.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 0.5 to 1 tablet(s) by mouth every four 
(4) hours Disp #*28 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tab by mouth twice daily Disp #*50 
Tablet Refills:*0 
7.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
8.  Acidophilus Probiotic (acidophilus-pectin, citrus) 100 
million cell-10 mg oral DAILY  
9.  amLODIPine 5 mg PO BID  
10.  DiphenhydrAMINE 25 mg PO QHS:PRN allergies  
11.  Fluticasone Propionate NASAL 1 SPRY NU DAILY allergies  
12.  Gabapentin 300 mg PO BID  
13.  Lidocaine 5% Ointment 1 Appl TP DAILY:PRN pain  
14.  LORazepam 0.5 mg PO NOON  
15.  LORazepam ___ mg PO QHS  
16.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
17.  Magnesium Oxide 400 mg PO BID  
18.  MethylPHENIDATE (Ritalin) 20 mg PO BID  
19.  Metoprolol Tartrate 25 mg PO Q6H  
20.  Multivitamins 1 TAB PO DAILY  
21.  Omeprazole 40 mg PO DAILY  
22.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right periprosthetic distal femur fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
-Touchdown weightbearing to the right lower extremity with range 
of motion as tolerated, right knee and unlocked ___ knee 
brace

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

FOLLOW UP:
Please follow up with your Orthopaedic Surgeon, Dr. ___. 
You will have follow up with ___, NP in the 
Orthopaedic Trauma Clinic 14 days post-operation for evaluation. 
Call ___ to schedule appointment upon discharge.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.
Physical Therapy:
Touchdown weightbearing to the right lower extremity with range 
of motion as tolerated, right knee and unlocked ___ knee 
brace
Treatments Frequency:
Any staples or superficial sutures you have are to remain in 
place for at least 2 weeks postoperatively.  Incision may be 
left open to air unless actively draining.  If draining, you may 
apply a gauze dressing secured with paper tape.  You may shower 
and allow water to run over the wound, but please refrain from 
bathing for at least 4 weeks postoperatively.

Please remain in the splint until follow-up appointment.  Please 
keep your splint dry.  If you have concerns regarding your 
splint, please call the clinic at the number provided.

Call your surgeon's office with any questions.
 
Followup Instructions:
___